US09388195B2
D) Production of 5-ethyl-N,N-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-sulfonamide
4-Bromo-5-ethyl-N,N-dimethyl-1H-pyrazole-1-sulfonamide(13.0 g), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (12.3 g), potassium acetate (13.6 g) and 1,2-dimethoxyethane (300 mL) were placed in a flask, and the atmosphere in the flask was purged with argon. [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) dichloride-dichloromethane complex (1:1, 3.76 g) was added, the atmosphere in the flask was purged again with argon, and the mixture was stirred at 90° C. overnight. The reaction system was allowed to cool to room temperature. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. A mixture of ethyl acetate and hexane (1:1) was added to the residue, the insoluble material was removed again by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (6.32 g) as a white solid.

reactant | 4-Bromo-5-ethyl-N,N-dimethyl-1H-pyrazole-1-sulfonamide | 13.0 g | BrC=1C=NN(C1CC)S(=O)(=O)N(C)C | C7H12BrN3O2S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 12.3 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 13.6 g | C(C)(=O)[O-].[K+]
solvent | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
product | 5-ethyl-N,N-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-sulfonamide | 6.32 g | C(C)C1=C(C=NN1S(=O)(=O)N(C)C)B1OC(C(O1)(C)C)(C)C | C13H24BN3O4S
